US07691882B2
3-Iodo-pyridin-2,6-diamine
2,6-Diaminopyridine (100 g, 916 mmol) was dissolved in dimethyl sulfoxide (400 mL), and N-iodosuccinimide (100 g, 445 mmol) was added in one portion while stirring at room temperature. The reaction solution was stirring for 10 minutes at room temperature. Water (3.5 L) was added to the reaction solution, and the precipitated solids were filtered out. The resulting aqueous layer was extracted with ethyl acetate (1.3 L) 3 times. The ethyl acetate layers were combined and the solvent was evaporated under a reduced pressure. The residue was purified by silica gel chromatography (heptane:ethyl acetate=2:3) to obtain the title compound (23.8 g, 22.8%).

reactant | 2,6-Diaminopyridine | 916 mmol, 100 g | NC1=NC(=CC=C1)N | C5H7N3
reactant | N-iodosuccinimide | 445 mmol, 100 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | Water | 3.5 L | O | H2O
solvent | dimethyl sulfoxide | 400 mL | CS(=O)C | C2H6OS
product | 3-Iodo-pyridin-2,6-diamine | 23.8 g, 22.8% | IC=1C(=NC(=CC1)N)N | C5H6IN3
